US03989685
To a cooled solution of α-tert.-butoxycarbonylaminophenylacetic acid (1.0 g) and triethylamine (405 mg) in tetrahydrofuran (16 ml), is added isobutylchloroformate (550 mg) at -10°C and the mixture is stirred for 10 minutes. To the solution is added a solution of 7β-amino-3β-chloro-3α-methylcepham-4α-carboxylic acid (870 mg), and triethylamine (405 mg) in a mixture of tetrahydrofuran and water (1:1; 15 ml), and the mixture is stirred for 1 hour at 5°C, and for 1 hour at room temperature. The reaction mixture is evaporated in vacuo to remove tetrahydrofuran, and the resultant solution is diluted with a mixture of water and ethyl acetate (3:1). The aqueous layer is separated, acidified to pH 3 with 10% hydrochloric acid, and extracted with ethyl acetate. The extract solution is washed with water, dried, and evaporated to give 7β-(α-tert.-butoxycarbonylaminophenylacetamido)-3β-chloro-3α-methylcepham-4α-carboxylic acid (1.5 g). Yield: 77%.

reactant | α-tert.-butoxycarbonylaminophenylacetic acid | 1.0 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | triethylamine | 405 mg | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 550 mg | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 7β-amino-3β-chloro-3α-methylcepham-4α-carboxylic acid | 870 mg | N[C@H]1[C@@H]2N([C@H]([C@](CS2)(C)Cl)C(=O)O)C1=O | C8H11ClN2O3S
reactant | triethylamine | 405 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | water | 15 ml | O | H2O
product | 7β-(α-tert.-butoxycarbonylaminophenylacetamido)-3β-chloro-3α-methylcepham-4α-carboxylic acid | 1.5 g, Yield: 77% | C(C)(C)(C)OC(=O)NC(C(=O)N[C@H]1[C@@H]2N([C@H]([C@](CS2)(C)Cl)C(=O)O)C1=O)C1=CC=CC=C1 | C21H26ClN3O6S
